US08304557B2
N-(3-{[2-(acetylamino)imidazo[1,2-a]pyridin-6-yl]oxy}phenyl)-6-methylpyridine-2-carboxamide
To a solution of N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-6-methylpyridine-2-carboxamide (300 mg, 0.835 mmol) in N,N-dimethylacetamide (5 mL) was added acetyl chloride (59.4 μL, 0.835 mmol), and the mixture was stirred at room temperature for 11 hr. The reaction mixture was diluted with aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, 0%→100% ethyl acetate-hexane) to give the title compound (109 mg, 33%) as a pale-yellow solid.

reactant | N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-6-methylpyridine-2-carboxamide | 0.835 mmol, 300 mg | NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC(=CC=C2)C)C1 | C20H17N5O2
reactant | acetyl chloride | 0.835 mmol, 59.4 μL | C(C)(=O)Cl | C2H3ClO
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-(3-{[2-(acetylamino)imidazo[1,2-a]pyridin-6-yl]oxy}phenyl)-6-methylpyridine-2-carboxamide | 109 mg, 33% | C(C)(=O)NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC(=CC=C2)C)C1 | C22H19N5O3
